US06335334B1
1.) 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoic acid
33.71 g (0.32 mol) of sodium carbonate were dissolved in 250 ml of water and warmed to 60° C. 25.00 g (0.13 mol) of 2-amino-4,5-dimethoxy-benzoic acid were introduced into the solution, and to this solution 29.55 g (0.14 mol) of 4-chloro-benzenesulfonyl chloride were added portionwise over 15 min . After cooling the mixture was filtered with suction, the residue was taken up in 1% sodium hydrogencarbonate solution, the solution filtered, and the product precipitated by addition of 1 N hydrochloric acid. 25.90 g (55%) of 2-(4-chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoic acid of melting point (m.p.) 212-214° C. were obtained.

reactant | sodium carbonate | 0.32 mol, 33.71 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-amino-4,5-dimethoxy-benzoic acid | 0.13 mol, 25.00 g | NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H11NO4
reactant | 4-chloro-benzenesulfonyl chloride | 0.14 mol, 29.55 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | water | 250 ml | O | H2O
product | 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C15H14ClNO6S
